US05874452
Step B: 5-(Thien-2-yl)-thiophene-2-carboxaldehyde
To a solution of thien-2-ylboronic acid (0.939 g, 7.34 mmol) and Na2CO3 (2.40 g, 22.6 mmol) in water (75 mL) is added p-dioxane (75 mL). This mixture is treated sequentially with 5-carboxy-2-thiophenecarboxaldehyde (1.43 g, 7.48 mmol) and palladium (II) acetate (151 mg, 0.673 mmol) and allowed to stir at ambient temperature for 16 hours. The solvent is evaporated in vacuo. To the residue is added EtOAc (400 mL) and water (300 mL). The aqueous layer is acidified to pH 1 with 1.0N aq. HCl. The aqueous layer is extracted with EtOAc (2×200 mL). The organic extracts are combined, washing with brine (200 mL), 5% aq. Na2S2O3 (200 mL), sat. aq. NaCl (200 mL), drying (Na2SO4), and the solvent evaporation in vacuo affords the title compound.

reactant | thien-2-ylboronic acid | 7.34 mmol, 0.939 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 22.6 mmol, 2.40 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | p-dioxane | 75 mL | O1CCOCC1 | C4H8O2
reactant | 5-carboxy-2-thiophenecarboxaldehyde | 7.48 mmol, 1.43 g | C(=O)(O)C1=CC=C(S1)C=O | C6H4O3S
solvent | water | 75 mL | O | H2O
catalyst | palladium (II) acetate | 0.673 mmol, 151 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(Thien-2-yl)-thiophene-2-carboxaldehyde | S1C(=CC=C1)C1=CC=C(S1)C=O | C9H6OS2
